US05776983
To a 4° C. solution of (S)-α-amino-4-methoxybenzeneacetic acid (1.8 g, 10 mmol), synthesis described in U.S. Pat. No. 3,517,023, in 1:2 1N NaOH/dioxane was added commercially available di-t-butyl dicarbonate (2.4 g, 11 mmol). After stirring 1.5 hours at 20° C., the reaction was partially concentrated, adjusted to pH 2, and extracted with EtOAc (3×). The EtOAc extracts were washed with brine, dried over MgSO4 and concentrated to yield (S)-α-[N-[(1,1-dimethylethyl)-carbonyl]amino]-4-methoxybenzeneacetic acid. A solution of 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline (660 mg, 2.7 mmol), (S)-α-[N-(1,1-dimethylethyl)carbonyl]amino]-4-methoxybenzeneacetic acid (600 mg, 2.14 mmol) in CH2Cl2 (10 mL) and N-methylaniline (2.13 mmmol) was stirred at 20° C. for 18 hours. After concentration, the reaction was diluted with EtOAc, washed with aq. NaHCO3, H2O, 1N HCl, brine, dried over MgSO4, and concentrated. Pure (S)-α-[N-[(1,1-dimethylethyl)carbonyl]amino]-4-methoxy-N-methyl-N-phenylbenzeneacetamide was obtained after chromatography on silica gel using 30% EtOAc/hexane as eluant. (S)-α-[N-[(1,1-Dimethylethyl)carbonyl]amino]-4-methoxy-N-methyl-N-phenylbenzeneacetamide was stirred 1.5 hours at 20° C. in 4N HCl/dioxane to generate (S)-α-amino-4-methoxy-N-methyl-N-phenylbenzeneacetamide which was used directly following isolation after concentration, dilution with EtOAc, washing sequentially with aq. NaHCO3 (2×) and brine, drying over MgSO4, and concentration.

reactant | (S)-α-amino-4-methoxybenzeneacetic acid | 10 mmol, 1.8 g | N[C@H](C(=O)O)C1=CC=C(C=C1)OC | C9H11NO3
reactant | NaOH dioxane | 1N | [OH-].[Na+].O1CCOCC1
reactant | di-t-butyl dicarbonate | 11 mmol, 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | (S)-α-[N-[(1,1-dimethylethyl)-carbonyl]amino]-4-methoxybenzeneacetic acid | CC(C)(C)C(=O)N[C@H](C(=O)O)C1=CC=C(C=C1)OC | C14H19NO4
